US06867198B2
3-(6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (4-fluoroindol-3-yl)acetamide and (6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | (4-fluoroindol-3-yl)acetamide | FC1=C2C(=CNC2=CC=C1)CC(=O)N | C10H9FN2O
reactant | (6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CCC(C3=CC(=CC1=C23)F)(C)C)=O | C16H16FNO3
product | 3-(6,6-dimethyl-8-fluoro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(4-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | CC1(CCN2C3=C(C=C(C=C13)F)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC(=C21)F)=O)=O)C | C25H19F2N3O2
